US08314094B2
3) Synthesis of [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride
To a mixed solution of THF (20 mL) and water (10 mL) containing 4-(azidomethyl)-6-chloro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one (2.59 g, 8.44 mmol), trimethyl phosphite (2 mL, 16.9 mmol) was added at room temperature, and the reaction solution was stirred at 60° C. for 5 hours. After the reaction solution was left to cool, water was added thereto, and the resulting solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. To the residue, a 4 N hydrochloric acid-dioxane solution (30 mL) was added, and the mixture was stirred at 40° C. for 24 hours. After the mixture was left to cool, the resulting solid was collected by filtration and washed with ethyl acetate and then dried under reduced pressure, whereby the objective compound (2.31 g, 86%) was obtained as a white solid.

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | water | 10 mL | O | H2O
reactant | 4-(azidomethyl)-6-chloro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 8.44 mmol, 2.59 g | N(=[N+]=[N-])CC1(OC(NC2=C1C=C(C=C2)Cl)=O)C(F)(F)F | C10H6ClF3N4O2
reactant | trimethyl phosphite | 16.9 mmol, 2 mL | P(OC)(OC)OC | C3H9O3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride | Cl.ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CN)C1 | InChI=1S/C10H8ClF3N2O2.ClH/c11-5-1-2-7-6(3-5)9(4-15,10(12,13)14)18-8(17)16-7;/h1-3H,4,15H2,(H,16,17);1H
